US06911450B1
To a solution of 2-bromo-3-methylbutanoic acid (3 g, 16.5 mmol) in ethanol (200 ml), was added concentrated sulfuric acid (4 ml). After 36 h under reflux ebullition, the reaction medium, returned to ambient temperature, was neutralized with an aqueous saturated sodium carbonate solution. After distillation of the ethanol, the reaction medium was extracted with dichloromethane (100 ml). The organic phase was dried over magnesium sulfate and the solvent was evaporated to give ethyl 2-bromo-3-methylbutanoate (1.91 g, 55%).

reactant | 2-bromo-3-methylbutanoic acid | 16.5 mmol, 3 g | BrC(C(=O)O)C(C)C | C5H9BrO2
reactant | sulfuric acid | 4 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethanol | 200 ml | C(C)O | C2H6O
product | ethyl 2-bromo-3-methylbutanoate | 1.91 g, 55% | BrC(C(=O)OCC)C(C)C | C7H13BrO2
